US08008302B2
Intermediate 25: (3R)-1-(3,4-dimethoxyphenyl)-3-methylpiperazine
A mixture of (R)-(−)-2-methylpiperazine (2.0 g, 20 mmol), 4-bromo-1,2-dimethoxybenzene (4.33 g, 20 mmol) and sodium tert-butoxide (2.88 g, 30 mmol) was prepared in anhydrous toluene (50 mL). The solution was degassed by argon bubbling for 10 min. Then palladium(II) acetate (220 mg, 1 mmol) and (+/−)-BINAP (500 mg, 0.8 mmol) were added. The resulting mixture was heated at reflux for 4 hours. Then the reaction mixture was cooled to RT and diluted with Et2O (50 mL). The salts were removed by filtration on Celite and the solvents were removed under reduced pressure to give a dark brown oil. Purification by flash chromatography (CHCl3/MeOH) gave a brown oil. This oil was taken up with DCM/Et2O, treated with activated charcoal at RT for 10 min and filtered on Celite. The solvents were removed under reduced pressure to give 1.33 g (28%) of the title compound as a yellow oil. M+(ESI): 237.2. HPLC (Condition A), Rt: 1.2 min (HPLC purity: 93.2%).

reactant | (R)-(−)-2-methylpiperazine | 20 mmol, 2.0 g | C[C@H]1NCCNC1 | C5H12N2
reactant | 4-bromo-1,2-dimethoxybenzene | 20 mmol, 4.33 g | BrC1=CC(=C(C=C1)OC)OC | C8H9BrO2
reactant | sodium tert-butoxide | 30 mmol, 2.88 g | CC(C)([O-])C.[Na+]
reactant | (+/−)-BINAP | 0.8 mmol, 500 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | charcoal | C | CH4
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | 50 mL | CCOCC | C4H10O
catalyst | palladium(II) acetate | 1 mmol, 220 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DCM Et2O | C(Cl)Cl.CCOCC
product | (3R)-1-(3,4-dimethoxyphenyl)-3-methylpiperazine | 1.33 g, 28% | COC=1C=C(C=CC1OC)N1C[C@H](NCC1)C | C13H20N2O2
